US06784192B2
1-[(Ethoxymethoxy)methyl)-3,4-methylenedioxybenzene
4.56 g of piperonyl alcohol and 1.20 g of 60% sodium hydride were suspended in 30 ml of N,N-dimethylformamide. After stirring for 30 minutes under ice-cooling, 2.28 ml of chloromethyl ethyl ether was added thereto, and the mixture was stirred at room temperature for one hour. Ethyl acetate was added to the reaction solution. The mixture was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (ethyl acetate:hexane=1:20), to give 4.98 g of the title compound as a colorless oil.

reactant | piperonyl alcohol | 4.56 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | sodium hydride | 1.20 g | [H-].[Na+]
reactant | chloromethyl ethyl ether | 2.28 ml | C(C)OCCl | C3H7ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[(Ethoxymethoxy)methyl)-3,4-methylenedioxybenzene | 4.98 g | C(C)OCOCC1=CC2=C(C=C1)OCO2 | C11H14O4
